US07368578B2
To a solution of 2-methyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-thiazole (2.72 g) in methanol (30 mL) was added concentrated hydrochloric acid (1.00 mL) at room temperature, and the mixture was stirred at room temperature for 18 hrs. The reaction mixture was evaporated under reduced pressure, and the residue was washed with ethyl acetate-methanol to give 4-[(E)-2-(2-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol.hydrochloride (2.30 g, yield 90%) as pale-yellow crystals. melting point: 211-212° C.

reactant | 2-methyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-thiazole | 2.72 g | CC=1SC=C(N1)\C=C\C=1C(=NN(C1)C1=CC=CC=C1)OCOC | C17H17N3O2S
reactant | hydrochloric acid | 1.00 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 4-[(E)-2-(2-methyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol.hydrochloride | 2.30 g, yield 90% | Cl.CC=1SC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O | InChI=1S/C15H13N3OS.ClH/c1-11-16-13(10-20-11)8-7-12-9-18(17-15(12)19)14-5-3-2-4-6-14;/h2-10H,1H3,(H,17,19);1H/b8-7+;
